US07732477B2
6-[(tert-Butoxycarbonyl)amino]-1-benzothiophene-2-carboxylic acid
200 mg (1.04 mmol) of 6-amino-1-benzothiophene-2-carboxylic acid are added to 2.5 ml (2.59 mmol) of a 1M solution, cooled to 0° C., of sodium hexamethyldisilazane in tetrahydrofuran. The mixture is stirred at RT for 15 minutes. 271.1 mg (1.24 mmol) of di-tert-butyl pyrocarbonate (Boc2O) are added. The mixture is stirred at RT for 2 h, the contents of the flask are concentrated under reduced pressure, the residue is partioned between 10% strength citric acid solution and ethyl acetate and the aqueous phase is extracted with ethyl acetate. The combined organic phases are dried over sodium sulfate and concentrated. The residue is purified by preparative HPLC. This gives 15 mg (5% of theory) of the title compound.

reactant | 6-amino-1-benzothiophene-2-carboxylic acid | 1.04 mmol, 200 mg | NC1=CC2=C(C=C(S2)C(=O)O)C=C1 | C9H7NO2S
reactant | sodium hexamethyldisilazane | C[Si](N[Si](C)(C)C)(C)C.[Na]
reactant | di-tert-butyl pyrocarbonate | 1.24 mmol, 271.1 mg | C(OC(C)(C)C)(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 6-[(tert-Butoxycarbonyl)amino]-1-benzothiophene-2-carboxylic acid | C(C)(C)(C)OC(=O)NC1=CC2=C(C=C(S2)C(=O)O)C=C1 | C14H15NO4S
